US06683090B1
(R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)[E-3-(3-furyl)propenamide]
Prepared as a free base by a method analogous to that described in Example 1 from (R)-1-azabicyclo[2.2.2]oct-3-ylamine dihydrochloride and E-3-(3-furyl)propenoicacid; the compound was purified by chromatography on silica gel using ammoniated methanol/chloroform mixtures as the eluent; MS (ES+) 247 (MH+).

reactant | (R)-1-azabicyclo[2.2.2]oct-3-ylamine dihydrochloride | Cl.Cl.N12C[C@@H](C(CC1)CC2)N
reactant | E-3-(3-furyl)propenoicacid | O1C=C(C=C1)/C=C/C(=O)O | C7H6O3
product | (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)[E-3-(3-furyl)propenamide] | N12C[C@@H](C(CC1)CC2)NC(\C=C\C2=COC=C2)=O | C14H18N2O2
